US07700641B2
C. Synthesis of 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 31D, and making non-critical variations to replace 1-hexyl-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one with 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one, and ethyl bromoacetate with para-formaldehyde, the title compound was obtained (70%) as a colorless solid: 1H NMR (300 MHz, DMSO-d6) δ 9.00 (br, 1H), 7.13-6.95 (m, 3H), 6.84 (d, 1H), 6.16 (d, 1H), 5.90-5.84 (m, 2H), 5.16-4.83 (m, 2H); 13C NMR (75 MHz, DMSO-d6) δ 177.8, 150.4, 147.1, 146.8, 139.8, 130.2, 129.3, 125.8, 117.7, 115.8, 109.3, 107.9, 101.2, 97.6, 63.5, 57.4.

reactant | 1-hexyl-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C(CCCCC)N1C(C(C2=CC=CC=C12)C1=CC2=C(OCO2)C=C1O)=O | C21H23NO4
reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(NC2=CC=C1)=O)C1=CC2=C(OCO2)C=C1O | C15H10BrNO4
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | para-formaldehyde | C=O | CH2O
product | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(NC2=CC=C1)=O)(CO)C1=CC2=C(OCO2)C=C1O | C16H12BrNO5
